US08536183B2
1-[(2-Methyl-3-pyridinyl)carbonyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine
To a solution of 1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine (Description 1) (100 mg, 0.340 mmol) in DMF (5 ml) was added HOBT.H2O (52.0 mg, 0.340 mmol), HBTU (129 mg, 0.340 mmol), 2-methyl-3-pyridinecarboxylic acid (46.6 mg, 0.340 mmol) and DIPEA (0.178 ml, 1.019 mmol). The reaction mixture was stirred for 2 hours at room temperature.

reactant | 1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 0.340 mmol, 100 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1)(F)F | C11H13F3N2O2S
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.340 mmol, 52.0 mg | O | H2O
reactant | HBTU | 0.340 mmol, 129 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-methyl-3-pyridinecarboxylic acid | 0.340 mmol, 46.6 mg | CC1=NC=CC=C1C(=O)O | C7H7NO2
reactant | DIPEA | 1.019 mmol, 0.178 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[(2-Methyl-3-pyridinyl)carbonyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | CC1=NC=CC=C1C(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C18H18F3N3O3S
